US04820727
Step (3) Preparation of 2-Fluoro-6-methoxy-1-methyl-5-(trifluoromethyl)naphthalene
A 250 mL nalgene bottle with magnetic stir bar under an N2 atmosphere was charged with HF-pyridine (70%-30% by weight) (75 mL) and cooled to -78° C. in a dry ice-isopropanol bath. When the HF-pyridine solution was frozen, a solution of the 6-amino-2-methoxy-5-methyl-1-trifluoromethylnaphthalene (10.07 g, 39.4 mmol) in pyridine (25 mL, previously dried over KOH) was added slowly. Again, when the solution was frozen, solid sodium nitrite (4.55 g, 1.67 eq) was added and the dry ice-isopropanol bath was removed. The reaction mixture was stirred at room temperature for 30 minutes (after 10 minutes the frozen solids had melted). The reaction mixture wass then heated in a 65° C. oil bath for 2 hours. During the heating period a foamy precipitate had collected in the reaction vessel. The reaction mixture was cooled to room temperature and added to water (1 L). The aqueous phase was extracted with ether (3×300 mL). The combined ether extracts were washed with saturated aqueous NaCl (200 mL). Silica gel (40 mL) was added to the ether phase and the ether was removed. The silica absorbate was flash chromatographed (95:5 petroleum ether:ethyl acetate) to provide the white solid product (7.82 g, 77%), m.p. 97°-99° C.

reactant | HF-pyridine | 75 mL | C1=CC=NC=C1.F
reactant | 6-amino-2-methoxy-5-methyl-1-trifluoromethylnaphthalene | 39.4 mmol, 10.07 g | NC=1C(=C2C=CC(=C(C2=CC1)C(F)(F)F)OC)C | C13H12F3NO
reactant | KOH | [OH-].[K+]
reactant | sodium nitrite | 4.55 g, 1.67 eq | N(=O)[O-].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Fluoro-6-methoxy-1-methyl-5-(trifluoromethyl)naphthalene | 7.82 g, 77% | FC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C | C13H10F4O
